2112-03-16 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2112-3-15**] 11:00 PM
 ARTERIAL LINE - START [**2112-3-16**] 12:20 AM
 MULTI LUMEN - START [**2112-3-16**] 02:00 AM
   Placed into rt IJ Cordis by cardiology fellow and resident
 NASAL SWAB - At [**2112-3-16**] 03:30 AM
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-16**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 70 (70 - 90) bpm
   BP: 111/54(69) {75/39(51) - 111/57(69)} mmHg
   RR: 15 (15 - 43) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 77.5 kg (admission): 77.5 kg
    CVP: 27 (26 - 30)mmHg
   Total In:
                                                                    159 mL
   PO:
   TF:
   IVF:
                                                                    159 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    177 mL
   Urine:
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   353 K/uL
   10.0 g/dL
   113 mg/dL
   4.6 mg/dL
   26 mEq/L
   5.2 mEq/L
   75 mg/dL
   95 mEq/L
   135 mEq/L
   34.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:39 AM
   WBC
   11.4
   Hct
   34.1
   Plt
   353
   Cr
   4.6
   Glucose
   113
   Other labs: PT / PTT / INR:15.7/27.9/1.4, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Year (4 digits) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:  CVP 24 on admission
   - continue dopamine drip with some UOP on dopamine alone, 200ccs
   - start the lasix drip today with goal negative 1-2 L
   - continue to monitor CVP
   - hold ACEI in setting of acute on chronic RF
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. will likely need revision of [**Last Name (LF) 4969**], [**First Name3 (LF) **] require valvuloplasty in
   the meantime.
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG
   -cont ASA325
   -stop plavix
   -cont pravastatin
   #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Arterial Line - [**2112-3-16**] 12:20 AM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU

2112-03-17 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2112-3-16**]:
   - Discontinued Heparin SC per pt request, wrote for pneumoboots
   - Started Lasix drip+ 80 mg bolus; small u/o avrg ~70 cc/hs
   - cv02 55
   - BP down to 80s, dopa bolus, then back up to 90s
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-3-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-17**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 70) bpm
   BP: 91/52(62) {87/40(48) - 120/62(73)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 77.5 kg (admission): 77.5 kg
    CVP: 21 (15 - 27)mmHg
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                  1,101 mL
                                                                    224 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    737 mL
                                                                    210 mL
   Urine:
                                                                    737 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    364 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   292 K/uL
   9.6 g/dL
   118 mg/dL
   4.8 mg/dL
   25 mEq/L
   5.4 mEq/L
   79 mg/dL
   94 mEq/L
   134 mEq/L
   33.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:39 AM
                             [**2112-3-16**]  02:51 PM
                             [**2112-3-17**]  04:44 AM
   WBC
   11.4
   12.7
   10.8
   Hct
   34.1
   35.3
   33.2
   Plt
   353
   339
   292
   Cr
   4.6
   4.8
   Glucose
   113
   118
   Other labs: PT / PTT / INR:15.7/27.9/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Year (4 digits) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:  CVP 24 on admission and still elevated today.
   - continue dopamine drip for better CO
   - has had increased uop on lasix gtt but still positive->consider
   adding metolazone and/or increasing lasix gtt
   - Will continue to try to diurese as pressure allows but with severe AS
   very pre-load dependent so has been difficult.
   - Follow up urine lytes.
   - continue to monitor CVP
   - hold ACEI in setting of acute on chronic RF
   - Will have EP lengthen PR interval to see if helps CO. Consider BiV
   pacing.
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5.
   -follow up urine lytes->likely pre-renal but was recently cathed and
   may have nephropathy from this
   -Holding ACE
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. will likely need surgery for AS.
   - Wil d/w Dr. [**Last Name (STitle) **] plan for surgery
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition: HH/DM2 diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: With patient and wife
   [**Name (NI) 66**] status: Full
   Disposition: CCU until valve repair/diuresis
   ------ Protected Section ------
   Reviewed overnight course.Slow improvement with gradual diuresis.
   Agree with dr.[**Last Name (STitle) **].s notes.
   Will discuss future management with Dr.[**Last Name (STitle) **]
   Spent 35 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2112-3-17**] 13:00 ------

2112-03-18 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2112-3-17**]:
   - Pacemaker interogated, showed no A pacing, only V pacing
   - Pts blood pressures dropped significantly on lasix drip, turned off
   - Increased dopamine to 10, then added dobutamine in attempt to trend
   dopamine off - however BP dropped precipitously once dobutamine started
   to SBP of 40s!  Kept on dopamine alone
   - Dwindling UOPs, attempted lasix again (started at 12am)
   - Decreased insulin sliding scales as BG running low with ARF
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2112-3-17**] 01:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-18**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 70 (70 - 70) bpm
   BP: 92/54(64) {56/42(46) - 113/59(69)} mmHg
   RR: 13 (7 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 77.5 kg (admission): 77.5 kg
    CVP: 349 (16 - 351)mmHg
   Total In:
                                                                  1,251 mL
                                                                    252 mL
   PO:
                                                                    510 mL
   TF:
   IVF:
                                                                    716 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                    514 mL
                                                                     45 mL
   Urine:
                                                                    514 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen: cachechtic middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**2-5**] early peaking systolic murmur RUSB No thrills,
   lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Crackles [**1-5**]
   up right side,
 up left side
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l upper and lower extremitiy edema No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   302 K/uL
   9.6 g/dL
   348 mg/dL
   4.5 mg/dL
   25 mEq/L
   5.0 mEq/L
   80 mg/dL
   90 mEq/L
   126 mEq/L
   33.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:39 AM
                             [**2112-3-16**]  02:51 PM
                             [**2112-3-17**]  04:44 AM
                             [**2112-3-18**]  04:26 AM
   WBC
   11.4
   12.7
   10.8
   10.1
   Hct
   34.1
   35.3
   33.2
   33.2
   Plt
   353
   339
   292
   302
   Cr
   4.6
   4.8
   4.6
   4.5
   Glucose
   113
   118
   72
   348
   Other labs: PT / PTT / INR:15.7/36.7/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Year (4 digits) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:  CVP 24 on admission and still elevated today.
   - continue dopamine drip for better CO while allowing MAPs to be lower
   (goal=50). Was unable to tolerate dobutamine.
   - Will try UF for diuresis as pressure allows but with severe AS very
   pre-load dependent so has been difficult.
   - continue to monitor CVP
   - hold ACEI in setting of acute on chronic RF
   -Consider BiV pacing.
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5 after recent cath.
   -urine lytes suggest pre-renal etiology
   -renal cls today for UF to help with fluid overload since lasix gtt not
   working and patient slowly getting more fluid overloaded. Hopefully
   once kidneys recover patient will be able to keep fluid off himself.
   -Holding ACE
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. will likely need surgery for AS.
   - Wil d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition: HH diet
   Glycemic Control:  Not needed
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: Full
   Disposition:CCU until diureses
   ------ Protected Section ------
   I reviewed data.Discussed case with Dr.[**Last Name (STitle) **] and examined Pt today.
   I agree with Dr.[**Last Name (STitle) **]
s note and possible need for dialysis.Renal to
   follow up.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2112-3-18**] 11:50 ------

2112-03-19 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Renal consulted. Renal u/s showed poor flow in left stent but widely
   patent right stent. Renal concerned about new hypotension but according
   to patient's cardiologist this is a chronic problem usually associated
   with his CHF exacerbations. We felt this was sufficient explanation for
   his hypotension/shock and no need for another tte.
   - [**First Name8 (NamePattern2) 359**] [**Last Name (NamePattern1) **] consulted. Suggested upgrading to BiV PPM for better
   synchrony. Attendings will discuss the utility of this but as of end of
   the day leaning toward not doing it.
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-19**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 70) bpm
   BP: 90/50(59) {62/42(46) - 113/54(69)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 80 kg (admission): 77.5 kg
    CVP: 19 (16 - 348)mmHg
   Total In:
                                                                  2,371 mL
                                                                  1,527 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,131 mL
                                                                  1,527 mL
   Blood products:
   Total out:
                                                                  1,573 mL
                                                                  1,960 mL
   Urine:
                                                                    480 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: cachechtic middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**2-5**] early peaking systolic murmur RUSB No thrills,
   lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Crackles [**1-5**]
   up right side,
 up left side
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l upper and lower extremitiy edema No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   253 K/uL
   9.5 g/dL
   168 mg/dL
   3.1 mg/dL
   25 mEq/L
   4.9 mEq/L
   59 mg/dL
   97 mEq/L
   134 mEq/L
   32.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:39 AM
                             [**2112-3-16**]  02:51 PM
                             [**2112-3-17**]  04:44 AM
                             [**2112-3-18**]  04:26 AM
                             [**2112-3-18**]  03:07 PM
                             [**2112-3-18**]  10:20 PM
                             [**2112-3-19**]  04:19 AM
   WBC
   11.4
   12.7
   10.8
   10.1
   12.3
   7.5
   Hct
   34.1
   35.3
   33.2
   33.2
   33.0
   32.8
   Plt
   353
   339
   292
   [**Telephone/Fax (3) 8738**]
   Cr
   4.6
   4.8
   4.6
   4.5
   5.0
   3.1
   Glucose
   113
   118
   72
   348
   90
   132
   168
   Other labs: PT / PTT / INR:15.5/29.2/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:  CVP 24 on admission and still elevated today
   although better (18) after UF.
   - continue dopamine drip for better CO while allowing MAPs to be lower
   (goal=50). Was unable to tolerate dobutamine.
   - UF for diuresis as pressure allows but with severe AS very pre-load
   dependent so has been difficult.
   - continue to monitor CVP
   - hold ACEI in setting of acute on chronic RF
   -Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer and transplant option
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5 after recent cath.
   Likely combination of poor renal perfusion in setting of low CO and
   contrast nephropathy.
   -urine lytes suggest pre-renal etiology
   -Will f/u renal recs today
   -Holding ACE
    #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean
   gradient of 20. will likely need surgery for AS.
   - Wil d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
    #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition: DM/HH
   Glycemic Control:  ISS
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Dialysis Catheter - [**2112-3-18**] 05:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2112-03-19 11:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Renal consulted. Renal u/s showed poor flow in left stent but widely
   patent right stent. Renal concerned about new hypotension but according
   to patient's cardiologist this is a chronic problem usually associated
   with his CHF exacerbations. We felt this was sufficient explanation for
   his hypotension/shock and no need for another tte.
   - [**First Name8 (NamePattern2) 359**] [**Last Name (NamePattern1) **] consulted. Suggested upgrading to BiV PPM for better
   synchrony. Attendings will discuss the utility of this but as of end of
   the day leaning toward not doing it.
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-19**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 70) bpm
   BP: 90/50(59) {62/42(46) - 113/54(69)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 80 kg (admission): 77.5 kg
    CVP: 19 (16 - 348)mmHg
   Total In:
                                                                  2,371 mL
                                                                  1,527 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,131 mL
                                                                  1,527 mL
   Blood products:
   Total out:
                                                                  1,573 mL
                                                                  1,960 mL
   Urine:
                                                                    480 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: cachechtic middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. [**2-5**] early peaking systolic murmur RUSB No thrills,
   lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Crackles [**1-5**]
   up right side,
 up left side
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l upper and lower extremitiy edema No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   253 K/uL
   9.5 g/dL
   168 mg/dL
   3.1 mg/dL
   25 mEq/L
   4.9 mEq/L
   59 mg/dL
   97 mEq/L
   134 mEq/L
   32.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:39 AM
                             [**2112-3-16**]  02:51 PM
                             [**2112-3-17**]  04:44 AM
                             [**2112-3-18**]  04:26 AM
                             [**2112-3-18**]  03:07 PM
                             [**2112-3-18**]  10:20 PM
                             [**2112-3-19**]  04:19 AM
   WBC
   11.4
   12.7
   10.8
   10.1
   12.3
   7.5
   Hct
   34.1
   35.3
   33.2
   33.2
   33.0
   32.8
   Plt
   353
   339
   292
   [**Telephone/Fax (3) 8738**]
   Cr
   4.6
   4.8
   4.6
   4.5
   5.0
   3.1
   Glucose
   113
   118
   72
   348
   90
   132
   168
   Other labs: PT / PTT / INR:15.5/29.2/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:  CVP 24 on admission and still elevated today
   although better (18) after UF.
   - continue dopamine drip for better CO while allowing MAPs to be lower
   (goal=50). Was unable to tolerate dobutamine.
   - UF for diuresis as pressure allows
   - continue to monitor CVP,
   - hold ACEI in setting of acute on chronic RF
   - Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer and transplant option
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5 after recent cath.
   Likely combination of poor renal perfusion in setting of low CO and
   contrast nephropathy.
   -urine lytes suggest pre-renal etiology
   -Will f/u renal recs today
   -Holding ACE
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. will likely need surgery for AS.
   - Wil d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
    #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition: DM/HH
   Glycemic Control:  ISS
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Dialysis Catheter - [**2112-3-18**] 05:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Chart reviewed.  Pateint interviewed examined on CCU rounds with team.
   I agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  Findings consistent with cardiogenic
   shock that appears multifactorial.  Exam is not consistent with
   critical AS, as S2 is preserved and murmur is not late peaking.  Timing
   most consistent with acute renal failure exacerbation of already
   tenuous state.  Fluid balance improving with UF.  Will review echo and
   discuss with Dr. [**First Name (STitle) **] option regarding biventricular pacing.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-19**] 11:09 ------

2112-03-20 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   UF off for ~3 hrs; UF rate at 200cc/hr
   Cont dopa
   Nauseated, zofran
   no other events
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 7 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-20**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 70) bpm
   BP: 91/43(54) {81/41(52) - 104/60(65)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 75.6 kg (admission): 77.5 kg
    CVP: 14 (13 - 29)mmHg
   Total In:
                                                                  6,224 mL
                                                                  1,305 mL
   PO:
                                                                    360 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  5,864 mL
                                                                  1,145 mL
   Blood products:
   Total out:
                                                                  7,888 mL
                                                                  2,306 mL
   Urine:
                                                                    400 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,664 mL
                                                                 -1,001 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema
   Labs / Radiology
   239 K/uL
   9.4 g/dL
   162 mg/dL
   2.1 mg/dL
   26 mEq/L
    4.8 mEq/L
   33 mg/dL
   99 mEq/L
   135 mEq/L
   33.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2112-3-16**]  02:51 PM
                             [**2112-3-17**]  04:44 AM
                             [**2112-3-18**]  04:26 AM
                             [**2112-3-18**]  03:07 PM
                             [**2112-3-18**]  10:20 PM
                             [**2112-3-19**]  04:19 AM
                             [**2112-3-19**]  09:36 AM
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
   WBC
   12.7
   10.8
   10.1
   12.3
   7.5
   9.2
   Hct
   35.3
   33.2
   33.2
   33.0
   32.8
   33.2
   Plt
   [**Telephone/Fax (3) 8744**]95
   253
   239
   Cr
   4.8
   4.6
   4.5
   5.0
   3.1
   2.4
   2.1
   Glucose
   118
   72
   348
   90
   132
   168
   156
   170
   136
   162
   Other labs: PT / PTT / INR:15.8/28.1/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:   On UF with
 2.5 lt off yesterday. CVP improving
   to 14 today from mid 20s on admission. Continue dopamine drip for
   better CO while allowing MAPs to be lower (goal=50).
   - hold ACEI in setting of acute on chronic RF
   - plan to wean off dopa today as pressure tolerates (based on CVP we
   may have reached endpoint of UF for this patient)
   - Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer and transplant option
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5 after recent cath.
   Likely combination of poor renal perfusion in setting of low CO and
   contrast nephropathy. Cre continues to improve post cath with UF.
   -Will f/u renal recs today
   Continue CVVH
   -Holding ACE
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. Will likely need repeat surgery for AS.
   - Will d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition:
   Heart healthy diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   18 Gauge - [**2112-3-16**] 04:00 AM
   Dialysis Catheter - [**2112-3-18**] 05:02 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds.  Slow
   progress with improvement in volume status and renal function.  Will
   contiue to remove fluid, monitor renal function.  Plan is for
   implantation of biventricular device later this week.  I agree with Dr.
   [**Last Name (STitle) 7233**]
s H+P, A+P.  ICU care due to cardiogenic shock, UF.  Total
   time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-20**] 10:50 ------

2112-03-21 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2112-3-20**]:
   - Attempt to wean dopamine, unable to wean BP dropped to the 80s after
   drop to 5.6mcg
   - Increased UF to make more negative, neg 3L at 10pm
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-21**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 70 (70 - 70) bpm
   BP: 100/49(62) {69/41(50) - 107/65(75)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 75.6 kg (admission): 77.5 kg
    CVP: 13 (13 - 20)mmHg
   Total In:
                                                                  2,587 mL
                                                                    247 mL
   PO:
                                                                    640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,947 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  5,611 mL
                                                                    150 mL
   Urine:
                                                                    405 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,024 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema
   Labs / Radiology
   235 K/uL
   9.5 g/dL
   96 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   23 mg/dL
   104 mEq/L
   140 mEq/L
   33.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2112-3-18**]  03:07 PM
                             [**2112-3-18**]  10:20 PM
                             [**2112-3-19**]  04:19 AM
                             [**2112-3-19**]  09:36 AM
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
   WBC
   12.3
   7.5
   9.2
   8.1
   Hct
   33.0
   32.8
   33.2
   33.9
   Plt
   295
   253
   239
   235
   Cr
   5.0
   3.1
   2.4
   2.1
   1.8
   1.6
   Glucose
   90
   132
   168
   156
   170
   136
   162
   162
   96
   Other labs: PT / PTT / INR:15.8/28.1/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Year (4 digits) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   #. CHF exacerbation:   On UF with
 2.5 lt off yesterday. CVP improving
   to 14 today from mid 20s on admission. Continue dopamine drip for
   better CO while allowing MAPs to be lower (goal=50).
   - hold ACEI in setting of acute on chronic RF
   - plan to wean off dopa today as pressure tolerates
   - Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer if able to lie flat this week
   may help his CO
   - [**Month (only) 60**] consider lasix gtt as with bolus got hypotensive and if doesn
   tolerate may need uf again
   #. ARF: Patient has chronic renal insufficiency with baseline
   creatinine 1.4 but now increased to close to 5 after recent cath.
   Likely combination of poor renal perfusion in setting of low CO and
   contrast nephropathy. Cre continues to improve post cath with UF.
   - Will f/u renal recs today
   - Believe UF no longer necessary but may need lasix
   - Holding ACE
   #. AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. Will likely need repeat surgery for AS.
   - Will d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well
   #. CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the
   native 3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this
   admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   #. Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone
   #. DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   #. Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition:
   Glycemic Control:  iss
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   Dialysis Catheter - [**2112-3-18**] 05:02 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   Communication:  Comments: with patient
   Code status: full
   Disposition:ccu
   ------ Protected Section ------
   Chart reviewed.  Pt interviewed and examined.  Discussed with CCU
   team.  I agree with Dr. [**Last Name (STitle) 4352**]
s H+P, A+P.  We plan continued
   attempts at diuresis with medical therapy as renal function has
   improved.  Biv implant later this week.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-21**] 16:29 ------
   60 minutes spent on patient care.  Critical care due to pressor
   dependence.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-21**] 16:30 ------

2112-03-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Lasix 60mg IV given but did not respond at all (UOP stayed
   10-20mL/hr)
   - CVVH line pulled
   - Per renal will allow to equilabrate for a day and then assess the
   need for lasix or UF based on UOP
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-3-21**] 12:00 PM
   Omeprazole (Prilosec) - [**2112-3-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-22**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 70 (70 - 70) bpm
   BP: 98/45(59) {88/32(49) - 109/67(77)} mmHg
   RR: 12 (6 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 75.6 kg (admission): 77.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,331 mL
                                                                    128 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    491 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    115 mL
   Urine:
                                                                    535 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    796 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema
   Labs / Radiology
   235 K/uL
   9.5 g/dL
   90 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.6 mEq/L
   30 mg/dL
   101 mEq/L
   135 mEq/L
   33.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2112-3-18**]  03:07 PM
                             [**2112-3-18**]  10:20 PM
                             [**2112-3-19**]  04:19 AM
                             [**2112-3-19**]  09:36 AM
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
   WBC
   12.3
   7.5
   9.2
   8.1
   Hct
   33.0
   32.8
   33.2
   33.9
   Plt
   295
   253
   239
   235
   Cr
   5.0
   3.1
   2.4
   2.1
   1.8
   1.6
   2.0
   Glucose
   90
   132
   168
   156
   170
   136
   162
   162
   96
   90
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Year (4 digits) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   # CHF exacerbation: Most likely [**1-4**] renal failure. UF off yesterday;
   appears euvolemic on exam. Lasix was given to promote diuresis but
   minimal u/o. Would try higher dose today, 100mg IV and increase as
   needed, or even lasix ggt. Will follow up with renal today to see if he
   may need to be on long term dialysis.
   - hold ACEI in setting of acute on chronic RF
   - plan to wean off dopa today as pressure tolerates
   - Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer Thursday
   # ARF: Improved post cath and UF (cre from 5 to 1.8 then 2), but now
   cre increasing again. Likely [**1-4**] contrast nephropathy. Cre continues to
   improve post cath with UF.
   - Will f/u renal recs today
   - [**Hospital1 **] lytes
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. Will likely need repeat surgery for AS.
   - Will d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well ??
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   # Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone  QOD
   # DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   # Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition:  Cardiac Diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined with CCU team on
   rounds.   I agree with Dr. [**Last Name (STitle) 7233**]
s H+P, A+P.  Total time spent on
   patient critical care: 60 minutes.  ICU level care due to hypotension
   requiring pressors.  For Biv ICD tentatively Thursday.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-22**] 14:01 ------

2112-03-23 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   100 mg lasix in am--> ~300cc
   weaned dopa to 4, then hypotension so we increased up to 7 again.
   100 mg lasix in pm
   n acetyl cysteine in am for pre BiV/ICD placement
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-3-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-23**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 70 (70 - 70) bpm
   BP: 105/49(63) {64/37(45) - 116/62(74)} mmHg
   RR: 13 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,195 mL
                                                                    157 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    565 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    500 mL
   Urine:
                                                                    685 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    510 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema
   Labs / Radiology
   241 K/uL
   9.8 g/dL
   103 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   41 mg/dL
   101 mEq/L
   135 mEq/L
   34.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-3-19**]  09:36 AM
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
   WBC
   9.2
   8.1
   6.9
   9.3
   Hct
   33.2
   33.9
   33.5
   34.3
   Plt
   [**Telephone/Fax (3) 8782**]41
   Cr
   2.4
   2.1
   1.8
   1.6
   2.0
   2.3
   2.3
   Glucose
   156
   170
   136
   162
   162
   96
   90
   103
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation
   # CHF exacerbation: Most likely [**1-4**] renal failure. UF off yesterday;
   appears euvolemic on exam. Lasix was given to promote diuresis but
   minimal u/o. Would try higher dose today, 100mg IV and increase as
   needed, or even lasix ggt. Will follow up with renal today to see if he
   may need to be on long term dialysis.
   - hold ACEI in setting of acute on chronic RF
   - plan to wean off dopa today as pressure tolerates
   - Will f/u Dr.[**Name (NI) 6567**] recs re: BiV pacer Thursday
   # ARF: Improved post cath and UF (cre from 5 to 1.8 then 2), but now
   cre increasing again. Likely [**1-4**] contrast nephropathy. Cre continues to
   improve post cath with UF.
   - Will f/u renal recs today
   - [**Hospital1 **] lytes
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. Will likely need repeat surgery for AS.
   - Will d/w Dr. [**Last Name (STitle) **] plan for surgery->may get valvuloplasty at some
   point as well ??
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  [**Month (only) 60**] eventually require revision CABG and [**Month (only) 4969**] this admission.
   -cont ASA 325
   -stop plavix in preparation for surgery
   -cont pravastatin
   # Afib: No anticoagulation because of hx of upper GIB x2.
   -cont amiodarone  QOD
   # DM2: hold glyburide
   -start RISS
   # Hypothyroidism: cont levothyroxine. Check T3 and T4 given high TSH.
   [**Month (only) 60**] need slightly more levoxyl.
   # GIB: cont omeprazole [**Hospital1 **]
   # Emergency contact: [**Name (NI) 1288**] [**Last Name (NamePattern1) 1112**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-03-24 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2112-3-23**]:
   - NPO after midnight for BiV pacer placement
   - UOP 20cc/hr off lasix and CVVH
   - Renal requested no lasix today in preparation for BiV pacer as well
   as mucomyst.
   - Unable to wean off dopamine
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-24**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 70 (70 - 70) bpm
   BP: 92/60(68) {62/40(47) - 106/60(70)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,220 mL
                                                                    261 mL
   PO:
                                                                    660 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    560 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    100 mL
   Urine:
                                                                  1,095 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema to ankles
   Labs / Radiology
   241 K/uL
   9.8 g/dL
   101 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   45 mg/dL
   101 mEq/L
   137 mEq/L
   34.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-3-19**]  09:36 AM
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
   WBC
   9.2
   8.1
   6.9
   9.3
   Hct
   33.2
   33.9
   33.5
   34.3
   Plt
   [**Telephone/Fax (3) 8782**]41
   Cr
   2.4
   2.1
   1.8
   1.6
   2.0
   2.3
   2.3
   2.2
   Glucose
   156
   170
   136
   162
   162
   96
   90
   103
   101
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation and ARF.
   # CHF exacerbation: Most likely [**1-4**] renal failure, although
   disynchronous ventricular contraction and AS may also be contributing.
   BiV/ICD placement today.  Euvolemic on exam.
   - hold ACEI in setting of acute on chronic RF
   - wean dopa as tolerated, goal maps in 50s
   - wean dopa
   - RUE swelling: most likely dependent edema, getting better; RUE US to
   r/o thrombosis.
   - d/c centrral line because side is needed for BIV placement.
   Transition to pIV or PICC for dopamine.
   # ARF: Likely [**1-4**] contrast nephropathy. Lasix was held yesterday given
   BiV/ICD procedure. Urine output decreased to 20cc/hr. Cre improving to
   1.9.  Will continue to monitor.
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. [**Month (only) 60**] need repeat surgery for AS in the future.
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  On ASA 325 and statin.
   # Afib: No anticoagulation because of hx of upper GIB x2. Cont
   amiodarone  QOD
   # DM2: hold glyburide, RISS
   # GIB: cont omeprazole [**Hospital1 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   Multi Lumen - [**2112-3-16**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above, nothing to add
   Physical Examination
   agree with above, nothing to add
   Medical Decision Making
   agree with above, nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4646**] [**Name (NI) **]  on:[**2112-3-24**]
   11:15 ------

2112-03-25 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - triple lumen pulled out of cordis but cordis left in and two pivs
   placed, however, cordis never drawn
   - Got biv ppm and had very good hemodynamics in lab
   - vanco X 1 week for ppm prophylaxis as h/o MRSA. Can d/c on keflex
   though if goes home and need oral regimen
   - Needs PA/Lat CXR in am for PPM placement and then can move arm
   keeping elbow below shoulder
   - U/S with no evidence DVT in RUE
   - Poor urine output during day but was npo and after got back from PPM
   uop picked up so no intervention.
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-24**] 02:00 PM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2112-3-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-25**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.2
   HR: 70 (70 - 70) bpm
   BP: 101/48(62) {77/38(48) - 124/62(74)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,206 mL
                                                                    160 mL
   PO:
                                                                    360 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    846 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    225 mL
   Urine:
                                                                    940 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    266 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema to ankles
   Labs / Radiology
   236 K/uL
   9.1 g/dL
   124 mg/dL
   1.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   45 mg/dL
   101 mEq/L
   136 mEq/L
   31.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2112-3-19**]  03:37 PM
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
                             [**2112-3-24**]  06:07 AM
   WBC
   9.2
   8.1
   6.9
   9.3
   9.1
   Hct
   33.2
   33.9
   33.5
   34.3
   31.9
   Plt
   [**Telephone/Fax (3) 8782**]41
   236
   Cr
   2.4
   2.1
   1.8
   1.6
   2.0
   2.3
   2.3
   2.2
   1.9
   Glucose
   170
   136
   162
   162
   96
   90
   103
   101
   124
   Other labs: PT / PTT / INR:16.5/28.3/1.5, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation and ARF.
   # CHF exacerbation: Most likely [**1-4**] renal failure, although
   disynchronous ventricular contraction and AS may also be contributing.
   BiV/ICD placed yesterday. Renal failure continues to improve. Continues
   to require dopa support.
   - hold ACEI in setting of acute on chronic RF
   - d.c dopa as tolerated, goal maps in 50s; pull cordis when stably off
   dopa.
   - echo showed improvement
   - RUE swelling: most likely dependent edema; RUE US negative.
   # ARF: Likely [**1-4**] contrast nephropathy. Urine output aprx 40 cc/hr off
   of lasix. It may be too soon to tell but improved forward flow by BiV
   may be responsible for improved U/O. Cre improving to 1.5.  Will
   continue to monitor.
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. [**Month (only) 60**] need repeat surgery for AS in the future.
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  On ASA 325 and statin.
   # Afib: No anticoagulation because of hx of upper GIB x2. Cont
   amiodarone  QOD
   # DM2: hold glyburide, RISS
   # GIB: cont omeprazole [**Hospital1 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   18 Gauge - [**2112-3-24**] 01:00 PM
   22 Gauge - [**2112-3-24**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examiend on CCU Rounds.  I
   agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  S/p biventricular PM placement
   yesterday.  Has still required low dose dopamine for BP support.  We
   plan to wean dopamine as tolerated.  Rest of care as outlined above.
   60 minutes spent of patient critical care.  ICU level care secondary to
   pressor dependence.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-25**] 12:44 ------

2112-03-26 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - off dopa
   - map stable in mid50s
   - pt refused 250 cc bolus at 9 pm
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-25**] 02:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 73) bpm
   BP: 83/49(57) {63/20(39) - 119/57(68)} mmHg
   RR: 19 (0 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
                  Total In:
                                                                  1,220 mL
                  PO:
                                                                    890 mL
                  TF:
   IVF:
                                                                    330 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                      0 mL
   Urine:
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema to ankles
   Labs / Radiology
   249 K/uL
   9.1 g/dL
   163 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   40 mg/dL
   100 mEq/L
   135 mEq/L
   31.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-3-19**]  10:12 PM
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
                             [**2112-3-24**]  06:07 AM
                             [**2112-3-25**]  05:37 AM
   WBC
   9.2
   8.1
   6.9
   9.3
   9.1
   9.3
   Hct
   33.2
   33.9
   33.5
   34.3
   31.9
   31.5
   Plt
   [**Telephone/Fax (3) 8782**]41
   236
   249
   Cr
   2.1
   1.8
   1.6
   2.0
   2.3
   2.3
   2.2
   1.9
   1.5
   Glucose
   136
   162
   162
   96
   90
   103
   101
   124
   163
   Other labs: PT / PTT / INR:15.5/29.8/1.4, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation and ARF.
   # CHF exacerbation: Most likely [**1-4**] renal failure, Dsynchronous
   ventricular contraction must have contributed to the exacerbation.
   - s/p BiV/ICD . ECHO and CO are better. U/O continues to improve. Off
   dopa with MAP in 50s.
   - hold ACEI in setting of acute on chronic RF
   - pull cordis
   # ARF: Likely [**1-4**] contrast nephropathy, improving daily. Cre improving
   to 1.5.  Will continue to monitor.
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. [**Month (only) 60**] need repeat surgery for AS in the future.
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  On ASA 325 and statin.
   # Afib: No anticoagulation because of hx of upper GIB x2. Cont
   amiodarone  QOD
   # DM2: hold glyburide, RISS
   # GIB: cont omeprazole [**Hospital1 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2112-3-15**] 11:00 PM
   18 Gauge - [**2112-3-24**] 01:00 PM
   22 Gauge - [**2112-3-24**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds.  I
   agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  Hypotension on peripheral upper
   extremity cuff checks does not completely correlate with his clinical
   picture.  Even with low BP
s, he has been feeling well, mentating fine,
   and maintaining his renal function.  We will check leg BP and continue
   with the plan as outlined above.  45 minutes spent on patient critical
   care.  ICU level care due to hypotension.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-26**] 12:03 ------

2112-03-27 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2112-3-26**] 12:33 PM
   [**2112-3-26**]:
   - Pulled Cordis
   - PT consulted
   - Up walking in the halls with the nurses - looked GREAT!
   - UOP decreased to 200cc over 17 hours, asked to increase PO intake
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-26**] 12:56 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-27**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 73) bpm
   BP: 86/48(56) {72/38(50) - 105/58(69)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
                  Total In:
                                                                  1,640 mL
                  PO:
                                                                  1,440 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    255 mL
                                                                    100 mL
   Urine:
                                                                    255 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,385 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVD midneck
   CV: PMI located in 5th intercostal space, midclavicular line. RR, [**2-5**]
   systolic murmur preserved S2. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Bibasilar
   crackles.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: b/l LE edema to ankles
   Labs / Radiology
   265 K/uL
   8.2 g/dL
   78 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.4 mEq/L
   45 mg/dL
   101 mEq/L
   136 mEq/L
   27.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2112-3-20**]  03:50 AM
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
                             [**2112-3-24**]  06:07 AM
                             [**2112-3-25**]  05:37 AM
                             [**2112-3-26**]  06:06 AM
   WBC
   9.2
   8.1
   6.9
   9.3
   9.1
   9.3
   9.9
   Hct
   33.2
   33.9
   33.5
   34.3
   31.9
   31.5
   27.9
   Plt
   [**Telephone/Fax (3) 8782**]41
   236
   249
   265
   Cr
   2.1
   1.8
   1.6
   2.0
   2.3
   2.3
   2.2
   1.9
   1.5
   1.7
   Glucose
   162
   162
   96
   90
   103
   101
   124
   163
   78
   Other labs: PT / PTT / INR:14.9/28.0/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation and ARF.
   # CHF exacerbation: Most likely [**1-4**] renal failure, Dysynchronous
   ventricular contraction must have contributed to the exacerbation.
   - s/p BiV/ICD . ECHO and CO are better. U/O continues to improve. Off
   dopa with MAP in 50s.
   - hold ACEI in setting of acute on chronic RF
   - Will likely need transfusion for Hct<30 and lasix later today based
   on labs
   # ARF: Likely [**1-4**] contrast nephropathy, improving daily. Creatinine
   increased to 1.7 yesterday, patient did not have labs drawn today.
   However, urine output increasing approx 30cc/hr.
   - Labs later today
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. [**Month (only) 60**] need repeat surgery for AS in the future.
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.  On ASA 325 and statin.
   # Afib: No anticoagulation because of hx of upper GIB x2. Cont
   amiodarone  QOD
   # DM2: hold glyburide, RISS
   # GIB: cont omeprazole [**Hospital1 **]
   ICU Care
   Nutrition:   Heart healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-3-24**] 01:00 PM
   22 Gauge - [**2112-3-24**] 01:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition:  Call out to the floor later today
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 7233**]
s H+P, A+P.  We will check renal function and hematocrit.
   Careful monitoring of fluid and hemodynamic status.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-27**] 10:40 ------

2112-03-28 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stable ->started plavix again
   - UOP 30mL/hr and creatinine 1.9 (from 1.7) so did not give lasix yet
   as was not symptomatic and may be contrast nephropathy from tiy dye
   load with BIV PPM placement a few days ago
   - Called out to [**Hospital Ward Name 790**] 3 but never got bed
   S: Pt denies SOB, CP or chest pressure.
   Pt ambulated yesterday with mild SOB only.  No f/chills
   Allergies:
   Amlodipine
   general swellin
   Flomax (Oral) (Tamsulosin Hcl)
   Hypotension; Ar
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications: ASA 325, plavix 75, amiodarone 200 QOD
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-28**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 71 (70 - 74) bpm
   BP: 99/59(67) {75/40(47) - 118/59(72)} mmHg
   RR: 18 (6 - 19) insp/min
   Heart rhythm: AV Paced
   Wgt (current): 75.5 kg (admission): 77.5 kg
   Height: 71 Inch
                   MAP 69 (48-73)
   Total In:
                                                                    920 mL
                                 PO:
                                                                    720 mL
                                 TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                      0 mL
   Urine:
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                      0 mL
   Respiratory support on RA
   ABG: ///26/
   Physical Examination
   Gen: NAD, A&OX\x3
   HEENT: sclera anicteric, OP with MMM
   Neck: JVP at 12cm est from external jugular
   CV: RRR, S1 & S2 nl, 3/6 SEM at RUSB, no thrills/lifts, no rubs or
   gallops.
   Lungs: crackles to mid-lung zones bilat, diffuse exp wheeze
   Abd: soft NT, ND, +bs
   Ext: wwp, 3+pitting edema to mid thigh bilat.  RUE swollen.  2+DP/PT
   and radial pulses bilat
   Labs / Radiology (from [**2112-3-27**])
   316 K/uL
   8.8 g/dL
   191 mg/dL
   1.9 mg/dL
   26 mEq/L
   5.0 mEq/L
   52 mg/dL
   99 mEq/L
   133 mEq/L
   30.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2112-3-20**]  09:57 AM
                             [**2112-3-20**]  04:05 PM
                             [**2112-3-21**]  05:45 AM
                             [**2112-3-22**]  06:13 AM
                             [**2112-3-22**]  01:42 PM
                             [**2112-3-23**]  05:16 AM
                             [**2112-3-24**]  06:07 AM
                             [**2112-3-25**]  05:37 AM
                             [**2112-3-26**]  06:06 AM
                             [**2112-3-27**]  10:45 AM
   WBC
   8.1
   6.9
   9.3
   9.1
   9.3
   9.9
   12.6
   Hct
   33.9
   33.5
   34.3
   31.9
   31.5
   27.9
   30.2
   Plt
   235
   263
   241
   [**Telephone/Fax (3) 8848**]
   316
   Cr
   1.8
   1.6
   2.0
   2.3
   2.3
   2.2
   1.9
   1.5
   1.7
   1.9
   Glucose
   162
   96
   90
   103
   101
   124
   163
   78
   191
   Other labs: PT / PTT / INR:14.9/28.0/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:242/0.7, Albumin:3.3 g/dL, LDH:234 IU/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   60 year old man CAD s/p MI s/p CABG and PCI to LCx, HL, DM, homograph
   [**Telephone/Fax (3) 4969**] in [**2097**] for aortic stenosis,  Afib s/p pacemaker , MS and AS p/w
   CHF exacerbation and ARF.
   # CHF exacerbation: Most likely [**1-4**] renal failure, Dysynchronous
   ventricular contraction must have contributed to the exacerbation.  s/p
   BiV/ICD . ECHO and CO are better. U/O continues to improve. Off dopa
   with MAP primarily 50-60s.
   - cont to hold ACEI in setting of acute on chronic RF (pt on lisinopril
   2.5 po daily at home)
   - Will likely need to add back lasix 20mg po daily later today; will
   evaluate based on labs if renal function stable or improved
   - monitor Hct, transfuse for Hct<30
   - restart toprol 25mg pd daily
   # ARF: Likely [**1-4**] contrast nephropathy, improving daily. Creatinine
   increased to 1.9 yesterday, patient did not have labs drawn yet today.
   However, urine output continues at 30cc/hr.
   - Labs later today
   # AS: s/p homographic [**Name (NI) 4969**], pt with valve area of 0.7 and mean gradient
   of 20. [**Month (only) 60**] need repeat surgery for AS in the future.
   # CAD: CAD c/b MI x2 s/p PTCA/stent/CABG. Recent cath showed the native
   3VD.
   - cont ASA 325 and statin.
   # Afib: No anticoagulation because of hx of upper GIB x2. Cont
   amiodarone  QOD
   # DM2: hold glyburide, RISS
   # GIB: cont omeprazole [**Hospital1 **]
   ICU Care
   Nutrition:   Heart healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-3-24**] 01:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition:  Call out to the floor later today
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**First Name (STitle) 3458**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4345**], MD
   on:[**2112-3-28**] 12:02 ------